US04801593
Phenol (47.9 g) was dissolved in dichloromethane (250 ml) and pyridine (44.3 g). Phenylacetyl chloride (78.8 g) was added with stirring over 40 min., and the resulting mixture allowed to stand at room temperature for 1 hr. The mixture was washed sequentially with water, twice with dilute hydrochloric acid, once with dilute sodium hydroxide solution, and then once with saturated brine. The solution was dried and evaporated to give phenyl phenylacetate 103.3 g., m.pt 39°-41°.

reactant | Phenol | 47.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | Phenylacetyl chloride | 78.8 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | pyridine | 44.3 g | N1=CC=CC=C1 | C5H5N
product | phenyl phenylacetate | 103.3 g | C1(=CC=CC=C1)CC(=O)OC1=CC=CC=C1 | C14H12O2
